US04146718
Ethyl 5,6-Dichloro-3,4-dihydro-2(1H)-iminoquinazoline-3-acetate Hydrobromide
A solution of cyanogen bromide (0.53 gm. 5 mmol) in toluene (10 ml.) was added to a solution of N-(6-amino-2,3-dichlorobenzyl)glycine ethyl ester (1.39 gm, 5 mmol) in toluene (10 ml.) and stirred at room temperature. There was an almost immediate precipitate. Stirring was continued for 30 minutes, and the reaction mixture was then heated to reflux and refluxed for 18 hours. After cooling, the solid was filtered off, washed with toluene and dried to give 1.81 gm (94.5%) of the title product. A portion of the product was recrystallized from ethanol, washed with ethanol and ether, and dried in vacuo at 78° to give an analytical sample as golden crystals.

reactant | cyanogen bromide | 5 mmol, 0.53 gm | N#CBr | CBrN
reactant | N-(6-amino-2,3-dichlorobenzyl)glycine ethyl ester | 5 mmol, 1.39 gm | C(C)OC(CNCC1=C(C(=CC=C1N)Cl)Cl)=O | C11H14Cl2N2O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5,6-Dichloro-3,4-dihydro-2(1H)-iminoquinazoline-3-acetate Hydrobromide | 1.81 gm, 94.5% | CCOC(=O)CN1CC2=C(C=CC(=C2Cl)Cl)N=C1N.Br | InChI=1S/C12H13Cl2N3O2.BrH/c1-2-19-10(18)6-17-5-7-9(16-12(17)15)4-3-8(13)11(7)14;/h3-4H,2,5-6H2,1H3,(H2,15,16);1H
